US08071592B2
(e) 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone Dihydrochloride
A solution of 1,1-dimethylethyl {1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-piperidinyl}carbamate (4.0 g) in dry MeOH (15 ml) and dry DCM (30 ml) was treated with 4 M hydrogen chloride in 1,4-dioxane (30 ml) and stirred at rt for 3 h. It was evaporated to dryness and the insoluble product was heated in MeOH (50 ml), cooled, filtered, washed with cold MeOH, then ether, to give a solid (3.05 g).

reactant | 1,1-dimethylethyl {1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-piperidinyl}carbamate | 4.0 g | FC1=CC=C2N=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C20H27FN4O3
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | MeOH | 15 ml | CO | CH4O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone Dihydrochloride | 3.05 g | Cl.Cl.NC1CCN(CC1)CCN1C(C=NC2=CC=C(C=C12)F)=O | InChI=1S/C15H19FN4O.2ClH/c16-11-1-2-13-14(9-11)20(15(21)10-18-13)8-7-19-5-3-12(17)4-6-19;;/h1-2,9-10,12H,3-8,17H2;2*1H
